US07989438B2
Step 11: (20S)-31-cyclohexyl-10-methyl-19,22-dioxa-9-thia-1,8,10,13-tetraazahexacyclo[18.9.1.12,6.13,29.013,17.023,28]dotriaconta-2(32),3,5,23,25,27,29(31)-heptaen-7-one 9,9-dioxide
To a solution (7 mM) of (7S)-7-[(1-{2-[(aminosulfonyl)(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid in DCM, DMAP (5 eq) and EDC (2 eq) were added and the resulting mixture heated at 40° C. for 2 h and then at RT over night. Volatiles were eliminated in vacuo and the residue redissolved in DMSO. Purification was by RP-HPLC (stationary phase: column Waters XTERRA prep. C18, 5 um, 19×100 mm) eluting with MeCN/TFA buffered with 0.1% TFA gradient. Fractions containing the product were combined and freeze dried to afford the product as a white powder (34%) as a mixture of isomers. 1H NMR (600 MHz, DMSO-d6+TFA, 320 K) δ 1.15-2.02 (m, 14H), 2.68-2.70 (m, 1H), 2.94-3.08 (m, 3H), 3.14-4.11 (m, 1H), 4.32-4.61 (m, 2H), 4.81-4.90 (m, 1H), 7.16-7.39 (m, 2H), 7.40-7.49 (m, 1H), 7.50-7.57 (m, 2H), 7.85-7.94 (m, 1H), 8.13-8.43 (m, 1H); (ES+) m/z 593 (M+H)+.

reactant | (7S)-7-[(1-{2-[(aminosulfonyl)(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid | 7 mM | NS(=O)(=O)N(CCN1C(CCC1)CO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)O)C=CC=C2)C | C32H42N4O6S
reactant | EDC | 2 eq
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMSO | CS(=O)C | C2H6OS
product | (20S)-31-cyclohexyl-10-methyl-19,22-dioxa-9-thia-1,8,10,13-tetraazahexacyclo[18.9.1.12,6.13,29.013,17.023,28]dotriaconta-2(32),3,5,23,25,27,29(31)-heptaen-7-one 9,9-dioxide | 34% | C1(CCCCC1)C1=C2C3=CC=CC=C3OC[C@H]3OCC4CCCN4CCN(S(NC(C4=CC=C1C(N2C3)=C4)=O)(=O)=O)C | C32H40N4O5S
